US05101048
Preparation of 4-cyanophenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside (Example 1a)
A suspension of 16.9 g (47.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide, 6 g (43.10-3 mol) of 4-mercaptobenzonitrile and 3.5 g (43.10-3 mol) of zinc oxide (ZnO) in 120 ml of anhydrous toluene and 120 ml of acetonitrile is stirred under an inert atmosphere, in the presence of a molecular sieve (1 mm), for 18 hours, at 50° C. After the reaction medium has been filtered on Celite® in ethyl acetate, the organic phase obtained is washed with a 1N solution of HCl twice, a 1N solution of sodium hydroxide and finally water, dried over magnesium sulfate and evaporated under reduced pressure. After precipitation in ether, 11.30 g (yield: 64%) of the expected product are obtained.

reactant | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide | 47.10-3 mol, 16.9 g | C(C)(=O)O[C@H]1[C@H](SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
reactant | 4-mercaptobenzonitrile | 43.10-3 mol, 6 g | SC1=CC=C(C#N)C=C1 | C7H5NS
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
catalyst | zinc oxide | 43.10-3 mol, 3.5 g | [O-2].[Zn+2]
product | 4-cyanophenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside | 11.30 g, yield: 64% | C(C)(=O)O[C@H]1[C@H](SC2=CC=C(C=C2)C#N)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C18H19NO6S2
